US09062055B2
Step 5. tert-Butyl {1-[3-bromo-1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate
A solution of N-bromosuccinimide (0.24 g, 1.3 mmol) in DMF (1 mL) was added dropwise to an ice-cooled solution of tert-butyl {1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate (0.41 g, 1.2 mmol) in N,N-dimethylformamide (5 mL) The resulting mixture was allowed to warm to room temperature and stirred for an additional 4 hours. The mixture was diluted with water and extracted with EtOAc. The extracts were combined, dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-10% EtOAc/hexane) to give the desired product (0.34 g, 68%). LCMS calculated for C21H22BrFN2O2Na(M+Na)+: m/z=455.1. Found: 455.0.

reactant | N-bromosuccinimide | 1.3 mmol, 0.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tert-butyl {1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate | 1.2 mmol, 0.41 g | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(C)NC(OC(C)(C)C)=O | C21H23FN2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl {1-[3-bromo-1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate | 0.34 g, 68% | BrC1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(C)NC(OC(C)(C)C)=O | C21H22BrFN2O2
